US08461179B1
A mixture of 4-(2-fluoro-5-nitrobenzyl)morpholine (414 mg, 1.723 mmol) in EtOAc (15 mL) was treated with 10% Pd/C (100 mg) and hydrogenated (1 atm) for 3 h. The solids were removed via filtration, rinsed with EtOAc and the filtrate concentrated to dryness to afford 4-fluoro-3-(morpholinomethyl)aniline (200 mg, 55% yield). MS (ESI) m/z: 211.1 [M+H]+.

reactant | 4-(2-fluoro-5-nitrobenzyl)morpholine | 1.723 mmol, 414 mg | FC1=C(CN2CCOCC2)C=C(C=C1)[N+](=O)[O-] | C11H13FN2O3
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-fluoro-3-(morpholinomethyl)aniline | 200 mg, 55% yield | FC1=C(C=C(N)C=C1)CN1CCOCC1 | C11H15FN2O
